US07544688B2
B: 4,6-Dihydroxy-quinazoline-2-carboxylic acid ethyl ester
2-amino-5-hydroxy-benzoic acid (15 mmol) are suspended in ethanol (water free, 600 ml) and heated up to 60° C. and stirred. Then triethylamine (30 mmol) is added and a clear solution is formed. Ethoxy-imino-acetic acid ethyl ester (1 6.5 mmol) is added at 60° C. and after 15 minutes another portion of triethylamine (15 mmol) is added and the mixture stirred for another 30 minutes. The mixture is cooled down to RT and left at RT without stirring over night. The solid material formed was filtered off, washed with ethanol/ether and dried (vacuum). A pale brown powder with mp. 258-260° C. (decomposition) is obtained.

reactant | 2-amino-5-hydroxy-benzoic acid | 15 mmol | NC1=C(C(=O)O)C=C(C=C1)O | C7H7NO3
reactant | triethylamine | 30 mmol | C(C)N(CC)CC | C6H15N
reactant | Ethoxy-imino-acetic acid ethyl ester | 6.5 mmol | C(C)OC(C(=N)OCC)=O | C6H11NO3
reactant | triethylamine | 15 mmol | C(C)N(CC)CC | C6H15N
solvent | ethanol | 600 ml | C(C)O | C2H6O
product | 4,6-Dihydroxy-quinazoline-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC2=CC=C(C=C2C(=N1)O)O | C11H10N2O4
